US07332529B2
Synthesis of 3,5-didodecoxybenzyl Azide
Sodium azide (3.25 g, 50.0 mmol) and DMF (25 mL) were introduced into a 1 L RBF containing 3,5-dinonoxybenzylchloride (10.0 g, 25.0 mmol) and a stir bar. The reaction mixture was then capped with a septum and an out-vent needle. The mixture was heated until warm to the touch, allowed too cool to room temperature, then heated again, (repeated 4 times). The mixture was then washed in a separatory funnel with 500 mL distilled water and ether (4 times with 100 mL). The combined ether layers were washed with ammonium chloride (2 times with 50 mL), and then the ether layer was dried with magnesium sulfate and gravity filtered into a 1 L RBF. Thin layer chromatography (10% dichlormethane/hexanes) analysis revealed that there was still a starting material in the product so the product was purified by silica gel flash chromatography (2 L 5% dichloromethane and hexanes, 2 L 7% dichloromethane and hexanes). The solvent was removed under reduced pressure and the trace solvent was removed with high vacuum. There was a 5.3 g yield or a 80% yield. The NMR characterization data for the derivative is as follows. 1NMR (300 MHz, CDCl3): 0.87 (t, J=6.6, 6H, CH2CH3), 1.15-1.6 (m, 36H, CH2(CH2)9), 1.76 (p, J=8.0, 4H, OCH2CH2), 3.93 (t, J=6.3, 4H, OCH2CH2), 4.24 (s, 2H, ArCH2), 6.41 (d, J=2.2, 3H, ArH).

reactant | Sodium azide | 50.0 mmol, 3.25 g | [N-]=[N+]=[N-].[Na+]
reactant | 3,5-dinonoxybenzylchloride | 25.0 mmol, 10.0 g | C(CCCCCCCC)OC=1C=C(CCl)C=C(C1)OCCCCCCCCC | C25H43ClO2
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 3,5-didodecoxybenzyl Azide | 80% yield | C(CCCCCCCCCCC)OC=1C=C(CN=[N+]=[N-])C=C(C1)OCCCCCCCCCCCC | C31H55N3O2
